US07790929B2
12.0 g of 4-bromo-2,6-difluorophenol, 10.0 ml of (S)-(+)-2-octanol and 16.5 g of triphenylphosphine were dissolved in 300 ml of tetrahydrofuran at about 20° C. with stirring under a nitrogen atmosphere. 12.5 ml of anhydrous (max. 0.0075% of H2O) diisopropyl azodicarboxylate were subsequently added dropwise. The reaction proceeds exothermically. The rate of addition was selected in such a way that the temperature of the mixture did not exceed 45° C. The reaction solution was subsequently stirred for 2 h, and the solvent was then removed in a rotary evaporator. The crude product was purified in a mixture of chlorobutane and heptane in the ratio 1:1 over 2 l of silica gel, giving 14.5 g of 3,5-difluoro-4-(1-methylheptyloxy)bromobenzene as a clear liquid.

reactant | 4-bromo-2,6-difluorophenol | 12.0 g | BrC1=CC(=C(C(=C1)F)O)F | C6H3BrF2O
reactant | (S)-(+)-2-octanol | 10.0 ml | C[C@@H](CCCCCC)O | C8H18O
reactant | triphenylphosphine | 16.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3,5-difluoro-4-(1-methylheptyloxy)bromobenzene | 14.5 g | FC=1C=C(C=C(C1OC(CCCCCC)C)F)Br | C14H19BrF2O
